US04680300
4(C) 1-Amino-6-(biphenyloxy)hexane
A mixture of N-[6-(2-biphenyloxy)hexyl]phthalimide (15.1 g), ethanol (400 ml) and hydrazine hydrate (30 ml) was heated at reflux for 4 hours, cooled to room temperature, filtered, and evaporated to dryness. The material that remained was stirred with dichloromethane (500 ml), filtered and evaporated to yield 1-amino-6-(2-biphenyloxy) as an oil, which was converted to the hydrochloride salt, (m.p. 86°-88° CC.) according to the method of Example IV.

reactant | N-[6-(2-biphenyloxy)hexyl]phthalimide | 15.1 g | C=1(C(=CC=CC1)OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C26H25NO3
reactant | hydrazine hydrate | 30 ml | O.NN
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1-Amino-6-(biphenyloxy)hexane | NCCCCCCOC=1C(=CC=CC1)C1=CC=CC=C1 | C18H23NO
